US07423030B2
18.4. 4-Benzyl-5,7-dimethoxy-N-[1-(naphthalen-2-ylmethyl)piperidin-4-yl]phthalazin-1-amine
This compound is obtained according to the procedure described in 1.4. by reacting 4-benzyl-1-chloro-5,7-dimethoxyphthalazine with 4-amino-1-(naphthalen-2-ylmethyl)piperidine.

reactant | 4-benzyl-1-chloro-5,7-dimethoxyphthalazine | C(C1=CC=CC=C1)C1=NN=C(C2=CC(=CC(=C12)OC)OC)Cl | C17H15ClN2O2
reactant | 4-amino-1-(naphthalen-2-ylmethyl)piperidine | NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | C16H20N2
product | 4-Benzyl-5,7-dimethoxy-N-[1-(naphthalen-2-ylmethyl)piperidin-4-yl]phthalazin-1-amine | C(C1=CC=CC=C1)C1=NN=C(C2=CC(=CC(=C12)OC)OC)NC1CCN(CC1)CC1=CC2=CC=CC=C2C=C1 | C33H34N4O2
